US05077288
1-{3-[4-(4-Fluorobenzoyl)piperidino]propyl}-4-(2-pyridylmethyl) piperazine 2,6-dione hydrochloride
A solution of 1.86 g of 4-(2-pyridylmethyl)piperazine 2,6-dione in 30 ml of dimethylformamide is added at 20° C. to a suspension of 0.36 g of sodium hydride. The mixture is brought to 60° C. for 30 minutes and 2.7 g of 1-(3-chloropropyl)-4-(4-fluorobenzoyl)piperidine, dissolved in 30 ml of dimethylformamide, are then added, again at 20° C. The mixture is kept stirring at 20° C. for approximately 15 hours and the reaction is completed by bringing to 70° C. for 2 hours. After concentration, the residue is taken up in water and the product is extracted with benzene. The oil obtained is purified by chromatography under pressure on 280 g of b 230-400 mesh silica, eluting with a mixture of dichloromethane and methanol (93.5:6.5 V/V). The base obtained is converted to the hydrochloride in ethanol. The precipitate obtained is then filtered off.

reactant | 4-(2-pyridylmethyl)piperazine 2,6-dione | 1.86 g | N1=C(C=CC=C1)CN1CC(NC(C1)=O)=O | C10H11N3O2
reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-(4-fluorobenzoyl)piperidine | 2.7 g | ClCCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C15H19ClFNO
reactant | hydrochloride | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 1-{3-[4-(4-Fluorobenzoyl)piperidino]propyl}-4-(2-pyridylmethyl) piperazine 2,6-dione hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCCN2C(CN(CC2=O)CC2=NC=CC=C2)=O)C=C1 | InChI=1S/C25H29FN4O3.ClH/c26-21-7-5-19(6-8-21)25(33)20-9-14-28(15-10-20)12-3-13-30-23(31)17-29(18-24(30)32)16-22-4-1-2-11-27-22;/h1-2,4-8,11,20H,3,9-10,12-18H2;1H
